US03954800
A mixture of 9 ml of DMSO (127 mmole), 12 ml of 1-dodecanethiol (50 mmole), 0.1 ml of 37 percent hydrochloric acid (1.2 mmole), and 10.8 mg of iodine (0.085 mmole as HI) was heated by a bath, while stirring magnetically, at about 60°C. After one and a fourth hours, the lower phase became amber colored. The mixture was cooled with stirring to produce fine crystals. These were filtered off and rinsed with DMSO. Recrystallization from acetone gave 9.02 g of didodecyl disulfide (90 percent of theory). Mp, 33°-5°C. (reported, 33°-4°C.).

reactant | DMSO | 127 mmole, 9 ml | CS(=O)C | C2H6OS
reactant | 1-dodecanethiol | 50 mmole, 12 ml | C(CCCCCCCCCCC)S | C12H26S
catalyst | hydrochloric acid | 1.2 mmole, 0.1 ml | Cl | ClH
catalyst | iodine | 0.085 mmole, 10.8 mg | II | I2
product | didodecyl disulfide | 9.02 g, 90 percent | C(CCCCCCCCCCC)SSCCCCCCCCCCCC | C24H50S2
